US06596734B1
(3,5-Dibromo-4-methoxyphenyl)acetylchloride.
A solution of 3,5-dibromo-4-methoxy-phenylacetic acid (30.29 g, 0.093 mol) and oxalyl chloride (118.7 g, 81.6 ml, 0.93 mol) in 300 mL of benzene was refluxed for 6 h. The solution was evaporated with benzene 3 times and dried in vacuum. Yield 100%.

reactant | 3,5-dibromo-4-methoxy-phenylacetic acid | 0.093 mol, 30.29 g | BrC=1C=C(C=C(C1OC)Br)CC(=O)O | C9H8Br2O3
reactant | oxalyl chloride | 0.93 mol, 81.6 ml, 118.7 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | benzene | 300 mL | C1=CC=CC=C1 | C6H6
product | (3,5-Dibromo-4-methoxyphenyl)acetylchloride | Yield 100% | BrC=1C=C(C=C(C1OC)Br)CC(=O)Cl | C9H7Br2ClO2
